US07696213B2
A solution of (E)-ethyl 3-(2-amino-4-(trans-4-methoxycyclohexylamino)-6-methylpyrimidin-5-yl)acrylate (674 mg, 2.02 mmol) thiophenol (621 ul, 6.05 mmol), 1,5-diazabicyclo5,4,0)undec-5-ene (1.81 mL, 12.1 mmol) and triethylamine (1.69 mL, 12.1 mmol) in N′,N-dimethylformamide (15 mL) was heated in the microwave for 30 minutes at 100° C. then in an oil bath at 100° C. overnight. The reaction mixture was diluted with methyltertbutylether and washed with saturated sodium carbonate, brine, 0.1 N hydrochloric acid, brine, dried (MgSO4), filtered and concentrated. The combined aqueous layer was extracted with dichloromethane (2×). The organic layer was dried (MgSO4), filtered and concentrated. The crude product was purified by flash chromatography eluting with chloroform/methanol (0-5%) to afford 2-amino-8-(trans-4-methoxycyclohexyl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one (482 mg, 83%).

reactant | (E)-ethyl 3-(2-amino-4-(trans-4-methoxycyclohexylamino)-6-methylpyrimidin-5-yl)acrylate | 2.02 mmol, 621 ul, 674 mg | NC1=NC(=C(C(=N1)N[C@@H]1CC[C@H](CC1)OC)/C=C/C(=O)OCC)C | C17H26N4O3
reactant | undec-5-ene | 12.1 mmol, 1.81 mL | CCCCC=CCCCCC | C11H22
reactant | triethylamine | 12.1 mmol, 1.69 mL | C(C)N(CC)CC | C6H15N
solvent | methyltertbutylether | COC(C)(C)C | C5H12O
product | 2-amino-8-(trans-4-methoxycyclohexyl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 482 mg, 83% | NC=1N=C(C2=C(N1)N(C(C=C2)=O)[C@@H]2CC[C@H](CC2)OC)C | C15H20N4O2
